US04061656
(3,4-dibromo-5-methyl-2-thienyl)triphenyl phosphonium chloride
(3,4-Dibromo-5-methyl-2-thenyl)triphenyl phosphonium chloride can be prepared in a manner analogous to that described in Example 13 by reaction of 2-chloromethyl-3,4-dibromo-5-methyl-thiophene with triphenyl phosphine, m.p. 215°-216° C.

reactant | (3,4-Dibromo-5-methyl-2-thenyl)triphenyl phosphonium chloride | [Cl-].BrC1=C(SC(=C1Br)C)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 2-chloromethyl-3,4-dibromo-5-methyl-thiophene | ClCC=1SC(=C(C1Br)Br)C | C6H5Br2ClS
reactant | triphenyl phosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | (3,4-dibromo-5-methyl-2-thienyl)triphenyl phosphonium chloride | [Cl-].BrC1=C(SC(=C1Br)C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C23H18Br2PS.ClH/c1-17-21(24)22(25)23(27-17)26(18-11-5-2-6-12-18,19-13-7-3-8-14-19)20-15-9-4-10-16-20;/h2-16H,1H3;1H/q+1;/p-1
